US08912209B2
Intermediate 14: 4-[2-(1-tert-Butoxycarbonylamino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-indole-2-carboxylic acid
To a solution of 4-[2-(1-amino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-indole-2-carboxylic acid methyl ester (600 μmol) in THF (2.4 ml) and MeOH (2.4 ml) was added a 1N LiOH solution (2.4 ml). The reaction mixture was stirred at 40° C. for 6 hours. The reaction mixture was diluted with 1N LION and extracted with EtOAc. The aqueous layer is acidified with a 20% citric acid solution and extracted again with EtOAc. The combined organic layers were dried over MgSO4 and the solvent was removed under reduced pressure.

reactant | 4-[2-(1-amino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-indole-2-carboxylic acid methyl ester | 600 μmol | COC(=O)C=1NC2=CC=CC(=C2C1)C1=C(C=CC(=C1)C(NC1=CC=NC=C1)=O)C(C)N | C24H22N4O3
reactant | LiOH | 1N, 2.4 ml | [Li+].[OH-]
reactant | MeOH | 2.4 ml | CO | CH4O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
product | 4-[2-(1-tert-Butoxycarbonylamino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-indole-2-carboxylic acid | C(C)(C)(C)OC(=O)NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)C1=C2C=C(NC2=CC=C1)C(=O)O | C28H28N4O5
